Diode Circuit Netlist
********************************************************************************
* Tier No.:  2
* Directory/Circuit Name: DIODE/DIODE.cir
* Description:  Simple diode circuit to test the validity of the diode model.
* Input:  VIN
* Output: V(3), I(VMON)
* Analysis:
*
* Note: This analysis is approximate, hence this is  Tier 2 test, not Tier 1.
*
* A diode is forward biased with a 5V input source, VIN.   With a 100fA 
* saturation current, Is,  the diode current, I(VMON) or Id,  and voltage, Vd,  
* are determined by the following equations:
*
*      (1) Id=Is[exp(Vd/Vt) - 1]
*      (2) Vin=Id*R + Vd = Is[EXP(Vd/Vt)-1]*R + Vd
*      where,
*      Vt=25.86mV, R=2K, Is=100fA, Vin=5V
*
* The diode voltage can be calculated by finding the value of Vd that 
* makes equation (2) true.  The diode current can be found by solving (1)  
* after Vd is found.  Therefore,
* 
*      Vd=0.6158V  and Id=2.19mA
*
* Following the initial biasing the diode is run through a couple 
* of cycles of reverse biasing to test the response over a variety 
* of conditions.  In the reverse biasing of 1V the current should 
* be: Is+gmin which gives an apparent resistance of 
* 1/(1.e-13 + 1.e-12) = 9.09e+11, which is the last value tabulated.
*
*******************************************************************************
*
* NOTE:  The simulation in xyce results are:
*	 Vd = .616V and Id=2.19mA
*        This difference is currently being addressed (01/01)
*
************************************************************************* 
VIN 1 0 PULSE ( 5 -1 0.05ms 100ns 100ns 0.1ms 0.2ms )
R1 1 2 2K
YGENEXT pd1 3 0
+ DPARAMS={NAME=IS VALUE=100FA}
+ SPARAMS={NAME=MODULENAME VALUE=./models/diode.py}
VMON 2 3 0
.TRAN 0 0.5ms
.options timeint reltol=1.0e-4
.options device voltlim=1
.PRINT TRAN I(VMON) V(3) {V(3)/I(VMON)}
*
.END
